US06897231B2
D. Methyl 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate
The title compound was prepared using methyl 4-[N-(1-perhydro-2H-pyran-2-yl-3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate (0.158 g, 035 mmol) as a solution in tetrahydrofuran (3 mL) and 6.0 N aqueous HCl (5 mL). The intermediate was isolated and used without further purification (0.129 g, quantitative): ES-MS (m/z) 373 [M+1].

reactant | methyl 4-[N-(1-perhydro-2H-pyran-2-yl-3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate | 0.158 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=NC=C1 | C26H24N4O4
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | HCl | 6.0 N, 5 mL | Cl | ClH
product | Methyl 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate | N1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C21H16N4O3
